US07419984B2
{4-[6-(5-Chloro-2-ethoxy-phenyl)-2-methylamino-pyrimidin4-ylamino]-phenyl}-methanol
To a mixture of 4-[6-(5-chloro-2-ethoxy-phenyl)-2-methylamino-pyrimidin-4-ylamino]-benzoic acid sodium salt (100 mg, 0.25 mmol) in tetrahydofuran (20 ml) was added lithium aluminum hydide (100 mg, 2.63 mmol) in 10 portions at room temperature. After stirring for 1 hour, methanol (5 ml) was carefully added followed by hydrochloric acid (1 M, 10 ml). After stirring for 10 minutes, the mixture was filtered. The filtrate was concentrated under reduced pressure and the residue was treated with methanol (5 ml) and a solution of sodium carbonate (5.0 g) in water (15 ml). The mixture was concentrated under reduced pressure to remove methanol. Filtration and drying of the solid under reduced pressure for 12 hours yielded the title compound (80 mg, 83% yield). 1H NMR (DMSO-d6) δ 1.39 (t, 3H, J=6.93 Hz, CH3), 2.86 (d, 3H, J=4.7 Hz, OH), 4.13 (q, 2H, J=7.0 Hz, CH2), 4.45 (d, 2H, J=5.7 Hz, CH2), 5.07 (t, 1H, J=5.7 Hz, CH2), 6.75 (br s, 2H, Ar), 7.14 (d, 1H, J=8.9 Hz, Ar), 7.24 (d, 2H, J=8.5 Hz, Ar), 7.40 (dd, 1H, J=8.8 Hz, J=2.8 Hz, Ar), 7.67 (d, 2H, J=8.3 Hz, Ar), 7.93 (s, 1H, NH), 9.17 (s, 1H, NH).

reactant | 4-[6-(5-chloro-2-ethoxy-phenyl)-2-methylamino-pyrimidin-4-ylamino]-benzoic acid sodium salt | 0.25 mmol, 100 mg | [Na+].ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)NC)NC1=CC=C(C(=O)[O-])C=C1)OCC
reactant | lithium aluminum | [Al].[Li]
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 1 M, 10 ml | Cl | ClH
solvent | tetrahydofuran | 20 ml | O1CCCC1 | C4H8O
product | {4-[6-(5-Chloro-2-ethoxy-phenyl)-2-methylamino-pyrimidin4-ylamino]-phenyl}-methanol | 80 mg, 83% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)NC)NC1=CC=C(C=C1)CO)OCC | C20H21ClN4O2
